US07622583B2
To a solution of 8-hydroxymethyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester (591.2 mg, 2.2 mmol) in dioxane (4 mL) was added preactivated MnO2 (2.00 g, 22.3 mmol), and the resulted mixture was heated at 80° C. for overnight. The resulted mixture was then cooled to r.t., and filtered. The solid was washed with EtOAc (20 mL×3). EtOAc washing solution was combined with dioxane filtrate, and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to provide 8-formyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester (491.5 mg) as a white solid. MS m/z: 286.0 (M+Na)+.

reactant | 8-hydroxymethyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester | 2.2 mmol, 591.2 mg | C(C)(C)(C)OC(=O)N1CCOC2=C1C=CC=C2CO | C14H19NO4
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | MnO2 | 22.3 mmol, 2.00 g | O=[Mn]=O
product | 8-formyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester | 491.5 mg | C(C)(C)(C)OC(=O)N1CCOC2=C1C=CC=C2C=O | C14H17NO4
